US05962458
A mixture of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (470 mg, 1 mmol), 4-chloromethyl-2-methylthiazole hydrochloride (368 mg, 2 mmol), potassium carbonate (414 mg, 3 mmol) and potassium iodide (40 mg) in DMF (15 ml) was heated at 60° C. for 24 hours. The mixture was allowed to cool and partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was dissolved in methanol (15 ml) and 1M sodium hydroxide (2 ml) was added and the mixture stirred for 30 minutes. Concentrated hydrochloric acid (0.5 ml) was added. The solvent was removed by evaporation. The residue was purified by reverse phase HPLC eluting with a gradient (0-70%) of methanol in water. Concentrated hydrochloric acid (0.3 ml) was added to the combined fractions of pure product and the solvent was removed by evaporation. The residue was triturated with acetone, collected by filtration, washed with acetone and dried under vacuum at 55° C. to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-((2-methylthiazol-4-yl)methoxy)quinazoline hydrochloride (225 mg, 48%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 1 mmol, 470 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 2 mmol, 368 mg | Cl.ClCC=1N=C(SC1)C
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-((2-methylthiazol-4-yl)methoxy)quinazoline hydrochloride | 225 mg, 48% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2N=C(SC2)C)C=C(C(=C1)C)O | InChI=1S/C21H19FN4O3S.ClH/c1-11-4-15(22)17(6-18(11)27)26-21-14-5-19(28-3)20(7-16(14)23-10-24-21)29-8-13-9-30-12(2)25-13;/h4-7,9-10,27H,8H2,1-3H3,(H,23,24,26);1H
